US05346913
To a solution of 3-benzyl-1-propargyl-5,5-dimethylhydantoin (2 g, 7.81 mmole) in acetone (35 mL) at room temperature was added N-iodosuccinimide (2.1 g, 9.2 mmole), followed by silver nitrate (0.265 g, 1.56 mmole). The reaction mixture was stirred at room temperature for 5 hr. The reaction mixture was then passed through Celite by suction-filtration and washed with acetone. The filtrate was concentrated on a rotary evaporator and diluted with ethyl acetate. The solution was washed with water and brine and dried over sodium sulfate. The solvent was evaporated on a rotary evaporator to give 1.9 g of 3-benzyl-1-(3-iodo-2-propynyl)-5,5-dimethylhydantoin as a light brown oil which slowly solidified, mp=83°-85° C. An NMR spectrum also showed the desired structure.

reactant | 3-benzyl-1-propargyl-5,5-dimethylhydantoin | 7.81 mmole, 2 g | C(C1=CC=CC=C1)N1C(N(C(C1=O)(C)C)CC#C)=O | C15H16N2O2
reactant | N-iodosuccinimide | 9.2 mmole, 2.1 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetone | 35 mL | CC(=O)C | C3H6O
catalyst | silver nitrate | 1.56 mmole, 0.265 g | [N+](=O)([O-])[O-].[Ag+]
product | 3-benzyl-1-(3-iodo-2-propynyl)-5,5-dimethylhydantoin | 1.9 g | C(C1=CC=CC=C1)N1C(N(C(C1=O)(C)C)CC#CI)=O | C15H15IN2O2
